US05225105
First, octyloxybenzoic acid was heated in thionyl chloride under reflux until complete dissolution. Excess thionyl chloride was removed by vacuum distillation. Thus there was obtained octyloxybenzoic acid chloride.

reactant | octyloxybenzoic acid | C(CCCCCCC)OC1=C(C(=O)O)C=CC=C1 | C15H22O3
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
product | octyloxybenzoic acid chloride | C(CCCCCCC)OC1=C(C(=O)Cl)C=CC=C1 | C15H21ClO2
